US08168788B2
4-Chloro-6-(4-chloro-phenyl)-pyrimidine
To a solution of 2,4-dichloro-pyrimidine (1 eq) in THF/H2O (4:3) solution, was added 4-chloro phenyl boronic acid (1 eq), Pd(PPh3)4 (0.01 eq) and Na2CO3 (2 eq) under Ar. The reaction mixture was stirred at reflex for overnight. EtOAc (10 mL) was added. The organic phase was separated, dried over Na2SO4, and concentrated. The residue was purified by column chromatography (Ethyl acetate:Hexane: 1:3) to give the desired product as a white powder (71% yield. MS: (ESI), M/Z, 225 (M+1). Retention time: 1.07 min (FA-non polar).

reactant | 2,4-dichloro-pyrimidine | 1 eq | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-chloro phenyl boronic acid | 1 eq | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | THF H2O | C1CCOC1.O
catalyst | Pd(PPh3)4 | 0.01 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-6-(4-chloro-phenyl)-pyrimidine | 71% yield | ClC1=NC=NC(=C1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
